US04447542
A mixture of p-chloro-α-methylstyrene (15.7 g, 204 mmole), 20 milligrams (mg) platinum oxide, and 20 ml absolute ethanol was shaken on a Paar Hydrogenator for about 8 hours, beginning with an initial hydrogen pressure of 42 pounds-per-square-inch (psi). During this procedure, an additional 14 psi of hydrogen were added to the Hydrogenator reservoir. The mixture was then filtered and the solvent removed by careful distillation at atmospheric pressure. The residual material resulting was distilled using a water aspirator vacuum to yield 12.69 g (74% yield) of p-chlorocumene (bp 69°-74° C.).

reactant | p-chloro-α-methylstyrene | 204 mmole, 15.7 g | ClC1=CC=C(C(=C)C)C=C1 | C9H9Cl
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 20 milligrams | [Pt]=O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | p-chlorocumene | 12.69 g, 74% yield | ClC1=CC=C(C=C1)C(C)C | C9H11Cl
